US07417064B2
Add 1-chloroethylchloroformate (0.58 mL, 5.38 mmol) to a stirred solution of [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine (0.9619 g, 2.62 mmol) and 1,2-dichloroethane (25 mL). Heat the reaction to reflux under nitrogen for 1.5 hours. Add methanol (30 mL) and heat the reaction at reflux for 30 minutes. Cool the reaction to room temperature and make it basic using 2M ammonia in methanol. Concentrate on a rotary evaporator to give the crude product. Purify the crude product by flash chromatography on silica gel eluting with 0.5% concentrated ammonium hydroxide/5% ethanol/chloroform to yield 0.6303 g (87%) of [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-methyl-amine: mass spectrum (ion spray) m/z=278.2(M+1); HPLC (90/5/5 to 0/95/5 water/acetonitrile/5% formic acid in water) XTerra MS C18 2.1 mm×50 mm×3.5 micron: Retention time: 2.52 minutes, Purity: >99.9%.

reactant | 1-chloroethylchloroformate | 5.38 mmol, 0.58 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine | 2.62 mmol, 0.9619 g | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CC(C)C | C23H29NOS
reactant | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
reactant | ammonia | 2M | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-methyl-amine | 0.6303 g, 87% | S1C2=C(C=C1)C(=CC=C2)OC(CCNC)CC(C)C | C16H23NOS
